US04602074
First, methacrylic acid is reacted with allyloxyethanol in the presence of catalytic of sulfuric acid by a usual esterification method to form methacrylic acid-allyloxyethyl ester (boiling point: 2 mmHg--64°-65° C., nD20 =1.4463, specific gravity d420 =0.982) in the yield of about 80%.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | allyloxyethanol | C(C=C)OC(C)O | C5H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | methacrylic acid-allyloxyethyl ester | yield of about 80% | C(C=C)OCCOC(C(=C)C)=O | C9H14O3
